US07531663B2
0.42 g (15 mmol) of lithium hydroxide monohydrate and 50 cm3 of water are added to 1.13 g (3.35 mmol) of 5-chloro-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-indole dissolved in 50 cm3 of tetrahydrofuran at a temperature in the region of 20° C. After stirring for 16 hours at the reflux temperature of the solvent, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 10 cm3 of 1N hydrochloric acid, the suspension is then filtered, and the solid residue is dried under atmospheric pressure at a temperature in the region of 60° C., giving 0.95 g of 3-carboxy-5-chloro-1-(quinolin-4-yl)-1H-indole in the form of a cream-colored solid, which is used directly in the following step.

reactant | lithium hydroxide monohydrate | 15 mmol, 0.42 g | O.[OH-].[Li+]
reactant | water | 50 cm3 | O | H2O
reactant | 5-chloro-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-indole | 3.35 mmol, 1.13 g | ClC=1C=C2C(=CN(C2=CC1)C1=CC=NC2=CC=CC=C12)C(=O)OC | C19H13ClN2O2
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 3-carboxy-5-chloro-1-(quinolin-4-yl)-1H-indole | 0.95 g | C(=O)(O)C1=CN(C2=CC=C(C=C12)Cl)C1=CC=NC2=CC=CC=C12 | C18H11ClN2O2
